US08835444B2
Step 1: 3-Oxo-2-pyridin-3-yl-butyronitrile
2-(Pyridin-3-yl)acetonitrile (7.00 g, 59.3 mmol) was dissolved in THF (100 ml). NaH (60% in oil) (5.93 g, 148 mmol) was slowly added and the reaction mixture was stirred at RT for 1 hour (continuous gentle gas evolution). EtOAc (1 ml) was added and the mixture was stirred until an exothermic reaction occurred. EtOAc (7 mL) was then added slowly to maintain gentle heating. The reaction was stirred at RT for 2 hours and then approximately 75% of the THF was removed in vacuo. The resulting mixture was partitioned between Et2O and water and the aqueous phase was washed with Et2O (2×50 mL). The aqueous phase was then acidified with 1M HCl and the product was extracted into EtOAc. A significant amount of solid gradually formed between the two layers. This material was filtered off and dried.

reactant | 2-(Pyridin-3-yl)acetonitrile | 59.3 mmol, 7.00 g | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | NaH | 148 mmol, 5.93 g | [H-].[Na+]
reactant | EtOAc | 1 ml | CCOC(=O)C | C4H8O2
reactant | EtOAc | 7 mL | CCOC(=O)C | C4H8O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-Oxo-2-pyridin-3-yl-butyronitrile | O=C(C(C#N)C=1C=NC=CC1)C | C9H8N2O
